US04220647
A mixture of 1(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (5.1 g), conc. hydrochloric acid (51 ml) and acetic acid (51 ml) was refluxed for 3 hours. The reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in water. The aqueous layer was washed with ethyl acetate, treated with activated charcoal and concentrated to dryness to give crude 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.8 g). The product was converted into its p-toluenesulfonate and then again converted into its hydrochloride by conventional techniques. The salt was recrystallized from water containing a small amount of hydrochloric acid to give pure 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride, mp 91° to 93° C.

reactant | 1(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 5.1 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)Cl)CC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 51 ml | Cl | ClH
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetic acid | 51 ml | C(C)(=O)O | C2H4O2
product | 1-(p-chloroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17ClN2O2.ClH/c17-11-1-3-12(4-2-11)19-9-14-13-8-16(21)15(20)7-10(13)5-6-18-14;/h1-4,7-8,14,18-21H,5-6,9H2;1H
